US06689779B2
Preparation of 2-[(1,3)-Oxazol-5-yl]-5-bromopyridine
In 5.4 ml of methanol was dissolved 200 mg of 5-bromo-2-formyl pyridine (5-bromo-2-pyridinyl aldehyde) which was then reacted with 231 mg of tosylmethylisocyanide for 3 hours in the presence of 178 mg of potassium carbonate under reflux. After completion of the reaction, the same post-treatment as in Preparation Example 13 was carried out to obtain the title compound. 204 mg.

reactant | 5-bromo-2-formyl pyridine | 200 mg | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | tosylmethylisocyanide | 231 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 178 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5.4 ml | CO | CH4O
product | 2-[(1,3)-Oxazol-5-yl]-5-bromopyridine | O1C=NC=C1C1=NC=C(C=C1)Br | C8H5BrN2O
